US04205085
A solution of 10.0 g. 4-aminohydrocinnamic acid in 100 ml. of absolute ethanol containing 16 ml. of boron trifluoride etherate is heated to reflux for 48 hours. The solution is then cooled, poured into 5% aqueous sodium carbonate, and extracted with methylene chloride. Evaporation of the organic extracts yields ethyl 4-aminohydrocinnamate.

reactant | 4-aminohydrocinnamic acid | NC1=CC=C(CCC(=O)O)C=C1 | C9H11NO2
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 16 ml | C(C)O | C2H6O
product | ethyl 4-aminohydrocinnamate | NC1=CC=C(CCC(=O)OCC)C=C1 | C11H15NO2
